US05591862
A mixture of 3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionitrile (0.7 g), sodium azide (0.411 g), ammonium chloride (0.337 g) and N,N-dimethylformamide (15 ml) was stirred for 24 hours at 120° C. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried, then the solvent was distilled off to leave 5-[2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]ethyl]tetrazole (0.38 g, 48%), which was recrystallized from ethyl acetate--hexane to give colorless prisms, m.p.143°-144° C.

reactant | 3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionitrile | 0.7 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCC#N | C21H20N2O2
reactant | sodium azide | 0.411 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.337 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]ethyl]tetrazole | 0.38 g, 48% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCC1=NN=NN1 | C21H21N5O2
